US08937183B2
(E)-6-((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)allyl)oxy)-benzo[d]thiazole-2-carbonitrile (PBI 4458)
A reaction vial was charged with tetrabutylammonium 2-cyanobenzo[d]thiazol-6-olate (209 mg, 1.19 mmol), (E)-2-(3-iodoprop-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (386 mg, 1.31 mmol) and 15 mL of dry dichloromethane. The vial was sealed, and the solution was heated in an oil bath at 80° C. overnight (˜16 hours). The crude reaction mixture was added to 1 gram of celite, and the solvent was evaporated under vacuum. The product was purified by silica gel chromatography using an increasing gradient of ethyl acetate in dichloromethane as eluent. This gave 166 mg of (E)-6-((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)allyl)oxy)benzo[d]thiazole-2-carbonitrile as a colorless oil that crystallized to a white solid upon standing at ambient temperature.

reactant | tetrabutylammonium 2-cyanobenzo[d]thiazol-6-olate | 1.19 mmol, 209 mg | C(#N)C=1SC2=C(N1)C=CC(=C2)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (E)-2-(3-iodoprop-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.31 mmol, 386 mg | IC/C=C/B1OC(C(O1)(C)C)(C)C | C9H16BIO2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (E)-6-((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)allyl)oxy)-benzo[d]thiazole-2-carbonitrile | CC1(OB(OC1(C)C)/C=C/COC1=CC2=C(N=C(S2)C#N)C=C1)C | C17H19BN2O3S
